datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C1CCCN1C(=O)C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C1CCCN1C(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCC[N:10]1CCOCC1.Oc1ccc2nc[n+:21]([H:20])cc2c1>>O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCC[N+:10]1([H:20])CCOCC1.Oc1ccc2nc[n:21]cc2c1 10=20;20,21=21",
"CNCCc1ccc(O)c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CNCCc1ccc(O)c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N:10](C)C.COC(O)(C(F)(F)F)[OH+:21][H:20]>>CC1(C)[C@H]2CC[C@@]1(C)[C@H](N)[C@H]2C[N+:10](C)(C)[H:20].COC(O)(C(F)(F)F)[OH:21] 10=20;20,21=21",
"C=CC(OCC(C)O)[O:21][H:20].CCO/C([O-])=N/c1ncnc2nc[n-:10]c12>>C=CC(OCC(C)O)[O-:21].CCO/C([O-])=N/c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"C[C@@H]([C@H](O)c1ccccc1)[NH+:21](C)[H:20].O=C(Cn1c2ccccc2c2ccccc21)[O-:10]>>C[C@@H]([C@H](O)c1ccccc1)[NH:21]C.O=C(Cn1c2ccccc2c2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CCCC(=O)O[O:21][H:20].Nc1[nH][n:10]c(N)c1/N=N/c1ccccc1>>CCCC(=O)O[O-:21].Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccccc1 10=20;20,21=21",
"CC[N+:21]1([H:20])[C@H](C)[C@@H]1C.c1ccc2c3c([nH]c2c1)C[NH:10]CC3>>CC[N:21]1[C@H](C)[C@@H]1C.c1ccc2c3c([nH]c2c1)C[NH+:10]([H:20])CC3 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH2+:21][H:20].COc1ccc2c(c1)CC(C)[NH:10]2>>CC(C)C(C(=O)[O-])[NH2:21].COc1ccc2c(c1)CC(C)[NH+:10]2[H:20] 10=20;20,21=21",
"C(=N/[O-:10])\c1cnns1.Cc1cccc2c1ccc[n+:21]2[H:20]>>C(=N/[O:10][H:20])\c1cnns1.Cc1cccc2c1ccc[n:21]2 10=20;20,21=21",
"COC(=O)C[S-:10].O=[N+]([O-])c1cccc([NH2+:21][H:20])c1>>COC(=O)C[S:10][H:20].O=[N+]([O-])c1cccc([NH2:21])c1 10=20;20,21=21",
"C[NH+]1C[C@H](C(=O)[O:21][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.Nc1ncc2[nH]c[n:10]c2n1>>C[NH+]1C[C@H](C(=O)[O-:21])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.Nc1ncc2[nH]c[n+:10]([H:20])c2n1 10=20;20,21=21",
"CCOC(=O)N1CC[NH:10]CC1.COc1ccc(C(O)C[NH2+:21][H:20])cc1>>CCOC(=O)N1CC[NH+:10]([H:20])CC1.COc1ccc(C(O)C[NH2:21])cc1 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"COc1ccc([O-:10])c(CNC(CO)C(=O)[O-])c1.Cc1cccc(Cl)c1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20]>>COc1ccc([O:10][H:20])c(CNC(CO)C(=O)[O-])c1.Cc1cccc(Cl)c1C(c1ccccc1)=[N:21]CCC[NH+](C)C 10=20;20,21=21",
"C[C@]1(O)CCCC[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@]1(O)CCCC[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC#CC#CC(=O)[O:21][H:20].[O-]c1c2nc[nH]c2nc[n:10]1>>CC#CC#CC(=O)[O-:21].[O-]c1c2nc[nH]c2nc[n+:10]1[H:20] 10=20;20,21=21",
"CC1=CC(=O)C([O:21][H:20])=C(Br)C=C1.c1ccc(C[N:10]2CCCC2)cc1>>CC1=CC(=O)C([O-:21])=C(Br)C=C1.c1ccc(C[N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"CC(C)[NH:10]C(C)C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCOCC[N:10](CCOCC)c1ccccc1.[S-]c1nccc[n+:21]1[H:20]>>CCOCC[N+:10](CCOCC)(c1ccccc1)[H:20].[S-]c1nccc[n:21]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.Cc1ccc(C2CCC[NH:10]2)cc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.Cc1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"C[NH+](C)CCCCCCCNC(=O)/C=N/[O:21][H:20].c1ccc2ncc([S-:10])cc2c1>>C[NH+](C)CCCCCCCNC(=O)/C=N/[O-:21].c1ccc2ncc([S:10][H:20])cc2c1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"O=C(O)[C@@H]1CC[C@H](C(=O)[O:21][H:20])C1.c1ccc2nc[n:10]cc2c1>>O=C(O)[C@@H]1CC[C@H](C(=O)[O-:21])C1.c1ccc2nc[n+:10]([H:20])cc2c1 10=20;20,21=21",
"Cc1[nH]c[n+:21]([H:20])c1C.Cc1cc(-c2[nH]cc[n:10]2)n[nH]1>>Cc1[nH]c[n:21]c1C.Cc1cc(-c2[nH]cc[n+:10]2[H:20])n[nH]1 10=20;20,21=21",
"CCCCCCCCCCCC[NH2+]CCC[NH2:10].CN(C)/C=[O+:21]\[H:20]>>CCCCCCCCCCCC[NH2+]CCC[NH2+:10][H:20].CN(C)C=[O:21] 10=20;20,21=21",
"CCCC[N+:21](CCCC)(c1ccccc1)[H:20].CCCC[NH:10]CCN>>CCCC[N:21](CCCC)c1ccccc1.CCCC[NH+:10](CCN)[H:20] 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].[O-]c1cccc([O-:10])c1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].[O-]c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC[N+:21](CC)(C(C)(C)C=O)[H:20].C[n+]1c([S-])[n:10]c([O-])c2ccccc21>>CC[N:21](CC)C(C)(C)C=O.C[n+]1c([S-])[n+:10]([H:20])c([O-])c2ccccc21 10=20;20,21=21",
